US07834049B2
3-Cyano-7-nitro-1H-indole
10.15 g (53.4 mmol) of 3-formyl-7-nitro-1H-indole was dissolved in 150 ml of dimethylformamide, and 3.93 g (56.0 mmol) of hydroxylamine hydrochloride and 4.5 ml (55.6 mmol) of pyridine were added thereto. After heating under stirring at 70 to 80° C. for 2 hours, 6.3 g (56.8 mmol) of selenium dioxide and about 5 g of magnesium sulfate were added thereto. After heating at 70 to 80° C. for further 2.5 hours, the insoluble matters were filtered off and the filtrate was concentrated. Water was added thereto, and the resulting crystals were collected by filteration and successively washed with water and ethyl ether. The crystals were dissolved in a mixed solution of tetrahydrofuran and acetone, and the insoluble matters were filtered off. After concentrating the filtrate, ethyl acetate was added to the residue and the crystals were collected by filtration, to give 8.61 g of the title compound.

reactant | 3-formyl-7-nitro-1H-indole | 53.4 mmol, 10.15 g | C(=O)C1=CNC2=C(C=CC=C12)[N+](=O)[O-] | C9H6N2O3
reactant | hydroxylamine hydrochloride | 56.0 mmol, 3.93 g | Cl.NO
reactant | pyridine | 55.6 mmol, 4.5 ml | N1=CC=CC=C1 | C5H5N
reactant | selenium dioxide | 56.8 mmol, 6.3 g | [Se](=O)=O | O2Se
reactant | magnesium sulfate | about 5 g | S(=O)(=O)([O-])[O-].[Mg+2]
solvent | dimethylformamide | 150 ml | CN(C=O)C | C3H7NO
product | 3-Cyano-7-nitro-1H-indole | 8.61 g | C(#N)C1=CNC2=C(C=CC=C12)[N+](=O)[O-] | C9H5N3O2
